US08754101B2
Intermediate 12: cis-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutanamine, hydrochloride
To a stirred solution of 1,1-dimethylethyl(cis-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutyl)carbamate (6.85 g, 19.27 mmol) in 1,4-dioxane (50 mL) was added a solution of hydrogen chloride in 1,4-dioxane (50 mL, 4M, 200 mmol) in one charge. The reaction vessel was sealed and the reaction stirred at ambient temperature for 16 hours. The reaction was concentrated to approximately half volume in vacuo and the resultant slurry was diluted with diethyl ether (200 mL) and the mixture stirred rapidly for 10 min. The precipitate was collected by filtration and dried in vacuo to give the title compound as a white solid (3.39 g). The mother liquors were concentrated in vacuo to give a yellow sticky solid. Trituration with diethyl ether (ca 20 mL) gave a white precipitate, the precipitate was collected by filtration and dried in vacuo to give a further batch of the title compound (1.035 g).

reactant | 1,1-dimethylethyl(cis-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutyl)carbamate | 19.27 mmol, 6.85 g | CC(C)(C)N(C([O-])=O)[C@@H]1C[C@@H](C1)OC1=CC(=C(C(=C1)F)C(C)(C)C)F
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 200 mmol, 4M, 50 mL | O1CCOCC1 | C4H8O2
product | cis-3-{[4-(1,1-dimethylethyl)-3,5-difluorophenyl]oxy}cyclobutanamine, hydrochloride | 3.39 g | Cl.CC(C)(C)C1=C(C=C(C=C1F)O[C@H]1C[C@H](C1)N)F | InChI=1S/C14H19F2NO.ClH/c1-14(2,3)13-11(15)6-10(7-12(13)16)18-9-4-8(17)5-9;/h6-9H,4-5,17H2,1-3H3;1H/t8-,9+;
